US04587241
To a flask containing 4 gms 4-hydroxymethyl imidazole hydrochloride in 30 ml dimethylformamide add 3.1 ml vinylethyl ether and 50 mg paratoluene sulfonic acid. Stir for 11/2 hours until the reaction is complete. Extract from saturated K2CO3 /NaCl with ethylacetate to obtain 1-ethoxy-1-(imidazol-4-yl)methoxy ethane.

reactant | 4-hydroxymethyl imidazole hydrochloride | 4 gms | Cl.OCC=1N=CNC1
reactant | vinylethyl ether | 3.1 ml | C(=C)OCC | C4H8O
reactant | paratoluene sulfonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-ethoxy-1-(imidazol-4-yl)methoxy ethane | C(C)OC(C)OCC=1N=CNC1 | C8H14N2O2
